* First-order RC low-pass filter
V1 Vin 0 AC 1
R1 Vin Vout 1k
C1 Vout 0 1u
.ac dec 20 1 1e9
.print ac vm(Vout) vp(Vout)

.control
set filetype=ascii
set wr_singlescale
ac dec 20 1 1e9
wrdata <REDACTED> frequency vm(Vout)
quit
.endc
.end
