* Twin-T passive notch filter
V1 Vin 0 AC 1
R1 Vin nR 1k
R2 nR Vout 1k
C1 nR 0 2n
C2 Vin nC 1n
C3 nC Vout 1n
R3 nC 0 500
.ac dec 20 1 1e9

.control
set filetype=ascii
set wr_singlescale
ac dec 20 1 1e9
wrdata <REDACTED> frequency vm(Vout)
quit
.endc
.end
