* 5V single-supply MOS RC phase-shift oscillator
VDD VDD 0 DC 5
VREFSRC VREF 0 DC 2.5
RREF1 VDD VREF 100k
RREF2 VREF 0 100k
CREF VREF 0 100n

M1 d1 Vinp tail 0 NMOS W=300u L=1u
M2 d2 Vinn tail 0 NMOS W=300u L=1u
M3 d1 d1 VDD VDD PMOS W=500u L=1u
M4 d2 d1 VDD VDD PMOS W=500u L=1u
MTAIL tail nbias 0 0 NMOS W=120u L=1u
RNB1 VDD nbias 330k
RNB2 nbias 0 220k

M5 Vout d2 0 0 NMOS W=900u L=1u
M6 Vout pbias VDD VDD PMOS W=2200u L=1u
RPB1 VDD pbias 180k
RPB2 pbias 0 330k
Cdom d2 Vout 2p

RDCOUT Vout VREF 1Meg

C1 Vout n1 1n
R1 n1 VREF 6.8k
C2 n1 n2 1n
R2 n2 VREF 6.8k
C3 n2 Vinp 1n
R3 Vinp VREF 6.8k
RINP Vinp VREF 1Meg
RVINN Vinn VREF 1k

.ic V(n1)=2.54 V(n2)=2.46 V(Vinp)=2.53 V(Vinn)=2.50 V(d2)=2.4 V(Vout)=2.6

.model NMOS NMOS LEVEL=1 VTO=0.7 KP=250u LAMBDA=0.02 PHI=0.6 GAMMA=0.4
.model PMOS PMOS LEVEL=1 VTO=-0.7 KP=100u LAMBDA=0.02 PHI=0.6 GAMMA=0.4

.tran 1u 5m

.control
set filetype=ascii
set wr_singlescale
tran 1u 20m uic
wrdata <REDACTED> time v(Vout)
quit
.endc
.end
