* 5V single-supply transistor Wien bridge oscillator
VDD VDD 0 DC 5
VREF Vref 0 DC 2.5

Rw1 Vout Vwser 10k
Cw1 Vwser Vinp 10n
Rw2 Vinp Vref 10k
Cw2 Vinp Vref 10n

Rf1 Vout Vflim 3.3k
Rf2 Vflim Vinn 18k
Rg Vinn Vref 10k
* Dlim1 Vout Vflim DLIM
* Dlim2 Vflim Vout DLIM

Itail ntail 0 DC 260u
M1 nload Vinp ntail ntail NMOS W=180u L=2u
M2 nout1 Vinn ntail ntail NMOS W=180u L=2u
M3 nload nload VDD VDD PMOS W=420u L=2u
M4 nout1 nload VDD VDD PMOS W=420u L=2u

M5 nout2 nout1 VDD VDD PMOS W=560u L=2u
M6 nout2 nbiasn 0 0 NMOS W=220u L=2u

VBN nbiasn 0 DC 1.05
Rdrv nout2 ndrv 3.3k
Cdom ndrv Vout 8p
M7 Vout ndrv VDD VDD PMOS W=420u L=2u
M8 Vout nbiasn 0 0 NMOS W=180u L=2u
Rbleed Vout Vref 100k
Cload Vout 0 50p

.model NMOS NMOS LEVEL=1 VTO=0.7 KP=220u LAMBDA=0.02
.model PMOS PMOS LEVEL=1 VTO=-0.7 KP=90u LAMBDA=0.02
.model DLIM D IS=1n RS=20 N=1.8 CJO=0.2p

.ic V(Vinp)=2.501 V(Vinn)=2.499 V(Vout)=2.55 V(Vwser)=2.6 V(nout1)=2.2 V(nout2)=2.8 V(ndrv)=2.4
.save V(Vout) V(Vinp) V(Vinn)
.tran 1u 5m

.control
set filetype=ascii
set wr_singlescale
tran 1u 20m uic
wrdata <REDACTED> time v(Vout)
quit
.endc
.end
