* Single-supply inverting op amp differentiator
VDD VDD 0 DC 5
VIN Vin 0 PWL(0 2.0 1m 3.0 2m 2.0 3m 3.0 4m 2.0 5m 3.0 6m 2.0 7m 3.0 8m 2.0 9m 3.0 10m 2.0)

RREF1 VDD Vref 10k
RREF2 Vref 0 10k

C1 Vin NINV 10n
Rf Vout NINV 10k
Rleak NINV Vref 100Meg

I_tail NTAIL 0 DC 100u
M1 ND1 Vref NTAIL 0 NMOS L=1u W=50u
M2 ND2 NINV NTAIL 0 NMOS L=1u W=50u
M3 ND1 ND1 VDD VDD PMOS L=1u W=100u
M4 ND2 ND1 VDD VDD PMOS L=1u W=100u

I_stage VDD NBIAS DC 50u
M5 NBIAS NBIAS 0 0 NMOS L=1u W=20u
M6 NG1 ND2 VDD VDD PMOS L=1u W=200u
M7 NG1 NBIAS 0 0 NMOS L=1u W=40u
M8 NG2 NG1 VDD VDD PMOS L=1u W=200u
M9 NG2 NBIAS 0 0 NMOS L=1u W=40u
M10 Vout NG2 VDD VDD PMOS L=1u W=500u
M11 Vout NBIAS 0 0 NMOS L=1u W=80u
Cc NG1 Vout 2p
CL Vout 0 10p

.model NMOS NMOS LEVEL=1 VTO=0.7 KP=200u LAMBDA=0.02
.model PMOS PMOS LEVEL=1 VTO=-0.7 KP=100u LAMBDA=0.02

.tran 1u 10m

.control
set filetype=ascii
set wr_singlescale
tran 1u 200m
wrdata <REDACTED> time v(Vout)
quit
.endc
.end
