* Inverting summing amplifier using primitive MOS opamp
VDD Vdd 0 DC 5
VSS Vss 0 DC -5
V1 Vin1 0 DC 1
V2 Vin2 0 DC 1
R1 Vin1 Vsum 10k
R2 Vin2 Vsum 10k
Rf Vout Vsum 10k
Itail Ntail Vss DC 100u
M1 Nd1 0 Ntail Vss NMOS L=1u W=100u
M2 Nout1 Vsum Ntail Vss NMOS L=1u W=100u
M3 Nd1 Nd1 Vdd Vdd PMOS L=1u W=200u
M4 Nout1 Nd1 Vdd Vdd PMOS L=1u W=200u
M5 Vout Nout1 Vdd Vdd PMOS L=1u W=500u
M6 Vout Nout1 Vss Vss NMOS L=1u W=250u
Rload Vout 0 1Meg
Ccomp Nout1 Vout 2p
.model NMOS NMOS LEVEL=1 VTO=0.7 KP=200u LAMBDA=0.02
.model PMOS PMOS LEVEL=1 VTO=-0.7 KP=100u LAMBDA=0.02
.op

.control
set filetype=ascii
set wr_singlescale
op
wrdata <REDACTED> v(Vout)
quit
.endc
.end
