* Primitive-device non-inverting CMOS Schmitt trigger with explicit VTH summing node
VDD VDD 0 5
VREF VREF 0 2.5
Vin Vin 0 SIN(2.5 0.8 0.1k)

Rin Vin VTH 100k
Rfb Vout VTH 330k
Rref VREF VTH 120k

Ibias VDD NBIAS 20u
MNB NBIAS NBIAS 0 0 NMOS L=1u W=20u
MTAIL NTAIL NBIAS 0 0 NMOS L=1u W=20u

MINP N1 VTH NTAIL 0 NMOS L=1u W=40u
MREF Vout VREF NTAIL 0 NMOS L=1u W=40u

MP1 N1 N1 VDD VDD PMOS L=1u W=80u
MP2 Vout N1 VDD VDD PMOS L=1u W=80u

Cload Vout 0 20f

.model NMOS NMOS (LEVEL=1 VTO=0.75 KP=220u LAMBDA=0.03 GAMMA=0.45 PHI=0.7)
.model PMOS PMOS (LEVEL=1 VTO=-0.75 KP=90u LAMBDA=0.03 GAMMA=0.45 PHI=0.7)

.op

.control
set filetype=ascii
set wr_singlescale
tran 10u 50m 0 uic
wrdata <REDACTED>
quit
.endc
.end
