* p30.cir primitive MOS PLL with PFD, charge pump, loop filter, and current-starved 3-stage ring VCO
VVDD VDD 0 1.8
VVSS VSS 0 0
VBIAS VBIAS VSS 0.9
VREF clk_ref VSS PULSE(0 1.8 1n 200p 200p 50n 100n)

.model NMOS NMOS level=1 VTO=0.45 KP=220u GAMMA=0.4 PHI=0.7 LAMBDA=0.06
.model PMOS PMOS level=1 VTO=-0.45 KP=90u GAMMA=0.4 PHI=0.7 LAMBDA=0.06

* Reference edge pulse generator
CREFEDGE raw_ref clk_ref 200f
RREFEDGE raw_ref VSS 50k
MREFI1 nref_b raw_ref VDD VDD PMOS W=1u L=0.18u
MREFI2 nref_b raw_ref VSS VSS NMOS W=0.5u L=0.18u
MREFI3 set_up nref_b VDD VDD PMOS W=1u L=0.18u
MREFI4 set_up nref_b VSS VSS NMOS W=0.5u L=0.18u

* Feedback edge pulse generator from buffered output clk_p
CFBEDGE raw_fb clk_p 200f
RFBEDGE raw_fb VSS 50k
MFBI1 nfb_b raw_fb VDD VDD PMOS W=1u L=0.18u
MFBI2 nfb_b raw_fb VSS VSS NMOS W=0.5u L=0.18u
MFBI3 set_dn nfb_b VDD VDD PMOS W=1u L=0.18u
MFBI4 set_dn nfb_b VSS VSS NMOS W=0.5u L=0.18u

* UP latch: cross-coupled NOR gates
MUPN1 up_p1 reset VDD VDD PMOS W=1u L=0.18u
MUPN2 up upb up_p1 up_p1 PMOS W=1u L=0.18u
MUPN3 up reset VSS VSS NMOS W=0.5u L=0.18u
MUPN4 up upb VSS VSS NMOS W=0.5u L=0.18u

MUPB1 up_p2 set_up VDD VDD PMOS W=1u L=0.18u
MUPB2 upb up up_p2 up_p2 PMOS W=1u L=0.18u
MUPB3 upb set_up VSS VSS NMOS W=0.5u L=0.18u
MUPB4 upb up VSS VSS NMOS W=0.5u L=0.18u

* DN latch: cross-coupled NOR gates
MDNN1 dn_p1 reset VDD VDD PMOS W=1u L=0.18u
MDNN2 dn dnb dn_p1 dn_p1 PMOS W=1u L=0.18u
MDNN3 dn reset VSS VSS NMOS W=0.5u L=0.18u
MDNN4 dn dnb VSS VSS NMOS W=0.5u L=0.18u

MDNB1 dn_p2 set_dn VDD VDD PMOS W=1u L=0.18u
MDNB2 dnb dn dn_p2 dn_p2 PMOS W=1u L=0.18u
MDNB3 dnb set_dn VSS VSS NMOS W=0.5u L=0.18u
MDNB4 dnb dn VSS VSS NMOS W=0.5u L=0.18u

* Reset when both UP and DN are high
MRESETP1 reset_b up VDD VDD PMOS W=1u L=0.18u
MRESETP2 reset_b dn VDD VDD PMOS W=1u L=0.18u
MRESETN1 reset_b up reset_n1 reset_n1 NMOS W=0.5u L=0.18u
MRESETN2 reset_n1 dn VSS VSS NMOS W=0.5u L=0.18u
MRESETI1 reset reset_b VDD VDD PMOS W=1u L=0.18u
MRESETI2 reset reset_b VSS VSS NMOS W=0.5u L=0.18u

* Charge pump into VCTRL
MCPUP1 up_src VBIAS VDD VDD PMOS W=1.2u L=0.18u
MCPUP2 VCTRL upb up_src up_src PMOS W=1.2u L=0.18u
MCPDN1 dn_src VBIAS VSS VSS NMOS W=0.6u L=0.18u
MCPDN2 VCTRL dn dn_src dn_src NMOS W=0.6u L=0.18u

* Loop filter
CCTRL VCTRL VSS 120p
RFILT VCTRL VFILT 4.7k
CFILT VFILT VSS 22p

* Current-starved 3-stage ring VCO
* Stage 1
MVH1 vp1 VBIAS VDD VDD PMOS W=1.2u L=0.18u
MVL1 vn1 VCTRL VSS VSS NMOS W=0.6u L=0.18u
MVP1 s1 s3 vp1 vp1 PMOS W=1u L=0.18u
MVN1 s1 s3 vn1 vn1 NMOS W=0.5u L=0.18u
CVCO1 s1 VSS 0.5p

* Stage 2
MVH2 vp2 VBIAS VDD VDD PMOS W=1.2u L=0.18u
MVL2 vn2 VCTRL VSS VSS NMOS W=0.6u L=0.18u
MVP2 s2 s1 vp2 vp2 PMOS W=1u L=0.18u
MVN2 s2 s1 vn2 vn2 NMOS W=0.5u L=0.18u
CVCO2 s2 VSS 0.5p

* Stage 3
MVH3 vp3 VBIAS VDD VDD PMOS W=1.2u L=0.18u
MVL3 vn3 VCTRL VSS VSS NMOS W=0.6u L=0.18u
MVP3 s3 s2 vp3 vp3 PMOS W=1u L=0.18u
MVN3 s3 s2 vn3 vn3 NMOS W=0.5u L=0.18u
CVCO3 s3 VSS 0.5p

* Output buffer; clk_p is also the only feedback clock
MOB1P buf1 s3 VDD VDD PMOS W=1.5u L=0.18u
MOB1N buf1 s3 VSS VSS NMOS W=0.75u L=0.18u
MOB2P clk_p buf1 VDD VDD PMOS W=3u L=0.18u
MOB2N clk_p buf1 VSS VSS NMOS W=1.5u L=0.18u
CLOAD clk_p VSS 50f

.ic V(VCTRL)=0.55 V(s1)=1.8 V(s2)=0 V(s3)=1.8 V(up)=0 V(dn)=0
.options reltol=1e-4 vntol=1e-6 abstol=1e-12 method=gear
.save V(clk_ref) V(clk_p) V(VCTRL) V(up) V(dn) V(s1) V(s2) V(s3)
.tran 0.5n 120u uic
.measure tran TREF TRIG V(clk_ref) VAL=0.9 RISE=1000 TARG V(clk_ref) VAL=0.9 RISE=1001
.measure tran TOUT TRIG V(clk_p) VAL=0.9 RISE=1000 TARG V(clk_p) VAL=0.9 RISE=1001
.measure tran VCTRL_AVG AVG V(VCTRL) FROM=100u TO=120u
.measure tran PHASE_ERR TRIG V(clk_ref) VAL=0.9 RISE=1000 TARG V(clk_p) VAL=0.9 RISE=1000

.control
set filetype=ascii
set wr_singlescale
tran 10n 10u uic
wrdata <REDACTED>
quit
.endc
.end
