* NMOS common-source amplifier with resistive drain load
VDD VDD 0 DC 5
Vin_src Vin 0 DC 1.2 AC 1
R VDD Vout 10k
M1 Vout Vin 0 0 NMOS W=50u L=1u
.model NMOS NMOS (LEVEL=1 VTO=0.7 KP=100u LAMBDA=0.02)
.op
.ac dec 20 1 1e9
.end
