* Three-stage NMOS common-source voltage amplifier
VDD VDD 0 DC 5
VIN Vin 0 DC 1.5 AC 1
R1 VDD n1 47k
R2 VDD n2 47k
R3 VDD Vout 47k
M1 n1 Vin 0 0 NMOS W=50u L=1u
M2 n2 n1 0 0 NMOS W=50u L=1u
M3 Vout n2 0 0 NMOS W=50u L=1u
.model NMOS NMOS LEVEL=1 VTO=1.2 KP=33u LAMBDA=0.02
.op
.ac dec 20 1 1e9
.end
