* NMOS common-drain source follower
VDD VDD 0 DC 5
Vin Vin 0 DC 2.5 AC 1
M1 VDD Vin Vout Vout NMOS1 W=50u L=1u
Rload Vout 0 10k
.model NMOS1 NMOS LEVEL=1 VTO=0.7 KP=100u
.op
.ac dec 20 1 1e9
.end
