* Simple NMOS current sink with resistive load
VDD VDD 0 DC 5
Vbias Vbias 0 DC 1.0
Rload VDD Vout 10k
M1 Vout Vbias 0 0 NMOS W=50u L=1u
.model NMOS NMOS (VTO=0.6 KP=100u LAMBDA=0.02)
.op
.end
