* NMOS Gilbert Cell Mixer
VDD VDD 0 DC 5
Vbias_tail Vbias_tail 0 DC 1.05
Vrfp Vrfp 0 SIN(2.0 0.02 1k)
Vrfn Vrfn 0 SIN(2.0 -0.02 1k)
Vlop Vlop 0 SIN(3.6 0.5 1.2k)
Vlon Vlon 0 SIN(3.6 -0.5 1.2k)

Rloadp VDD Voutp 10k
Rloadn VDD Voutn 10k

Mtail rf_tail Vbias_tail 0 0 NMOS W=50u L=1u
Mrfp rf_drp Vrfp rf_tail rf_tail NMOS W=50u L=1u
Mrfn rf_drn Vrfn rf_tail rf_tail NMOS W=50u L=1u
Mlo1 Voutp Vlop rf_drp rf_drp NMOS W=50u L=1u
Mlo2 Voutn Vlon rf_drp rf_drp NMOS W=50u L=1u
Mlo3 Voutn Vlop rf_drn rf_drn NMOS W=50u L=1u
Mlo4 Voutp Vlon rf_drn rf_drn NMOS W=50u L=1u

.model NMOS NMOS (VTO=0.7 KP=100u)

.tran 1u 5m
.end
