* 5 V CMOS two-stage differential opamp
VDD VDD 0 DC 5
Vinp Vinp 0 DC 2.5 AC 0.5
Vinn Vinn 0 DC 2.5 AC -0.5
Vb1 Vbias1 0 DC 1.0
Vb2 Vbias2 0 DC 4.0
Vb3 Vbias3 0 DC 1.2

M1 Nmir Vinp Ntail Ntail NMOS W=20u L=1u
M2 Voutp Vinn Ntail Ntail NMOS W=20u L=1u
M3 Nmir Nmir VDD VDD PMOS W=80u L=1u
M4 Voutp Nmir VDD VDD PMOS W=80u L=1u
M5 Ntail Vbias1 0 0 NMOS W=20u L=1u

M6 Vout Voutp 0 0 NMOS W=80u L=1u
M7 Vout Vbias2 VDD VDD PMOS W=160u L=1u

Cc Voutp Vout 2p
CL Vout 0 1p

M8 Vaux Vbias3 0 0 NMOS W=1u L=1u
Raux VDD Vaux 1meg

.model NMOS NMOS LEVEL=1 VTO=0.7 KP=100u LAMBDA=0.02
.model PMOS PMOS LEVEL=1 VTO=-0.7 KP=50u LAMBDA=0.02

.op
.ac dec 20 1 1Meg
.end
