* 5V single-supply transistor-level Wien bridge oscillator
VDD VDD 0 DC 5
VREF Vref 0 DC 2.5
CREF Vref 0 1u

ITAIL tail 0 DC 120u
M1 n1 Vinp tail tail NMOS W=80u L=1u
M2 n2 Vinn tail tail NMOS W=80u L=1u
M3 n1 n1 VDD VDD PMOS W=180u L=1u
M4 n2 n1 VDD VDD PMOS W=180u L=1u

RBIAS1 VDD nbias 220k
RBIAS2 nbias 0 180k
M5 ndrv n2 VDD VDD PMOS W=360u L=1u
RDRV ndrv 0 18k
M6 Vout ndrv VDD VDD PMOS W=900u L=1u
M7 Vout nbias 0 0 NMOS W=220u L=1u
ROUT Vout 0 200k
COUT Vout 0 5p

Rw1 Vout nw 10k
Cw1 nw Vinp 10n
Rw2 Vinp Vref 10k
Cw2 Vinp Vref 10n

Rf Vout Vinn 22k
Rg Vinn Vref 10k

.model NMOS NMOS (LEVEL=1 VTO=0.75 KP=220u LAMBDA=0.03)
.model PMOS PMOS (LEVEL=1 VTO=-0.75 KP=90u LAMBDA=0.03)

.ic V(Vout)=2.55 V(Vinp)=2.53 V(Vinn)=2.47 V(n2)=2.2 V(ndrv)=1.8
.tran 1u 5m
.end
