* Single-supply inverting op-amp integrator
VDD VDD 0 DC 5
VIN Vin Vref PULSE(-0.25 0.25 0 1u 1u 1m 2m)

RREF1 VDD Vref 10k
RREF2 Vref 0 10k
CREF Vref 0 10u

R1 Vin NINV 10k
CF Vout NINV 100n
RFLEAK Vout NINV 10Meg

ITAIL NTAIL 0 DC 200u
MNPLUS N1 Vref NTAIL 0 NMOS_L1
MNMINUS Vout NINV NTAIL 0 NMOS_L1
MPLOAD1 N1 N1 VDD VDD PMOS_L1
MPLOAD2 Vout N1 VDD VDD PMOS_L1
CLOAD Vout 0 10p

.model NMOS_L1 NMOS (LEVEL=1 VTO=0.7 KP=500u LAMBDA=0.02)
.model PMOS_L1 PMOS (LEVEL=1 VTO=-0.7 KP=250u LAMBDA=0.02)

.ic V(Vout)=2.5 V(NINV)=2.5
.tran 1u 10m
.print tran V(Vin) V(Vout)
.end
